US07737141B2
Synthesis of (S)-4-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propyl]-6-methylmorpholin-2,3-dione
In nitrogen atmosphere, oxalyl chloride (45 μL) was dropwise added to a methylene chloride solution (2 mL) of (S)-1-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]propan-2-ol (171 mg), TEA (0.17 mL), and 4-(N,N-dimethylamino)pyridine (8 mg) under ice-cooling. This reaction solution was stirred under ice-cooling for 2 hr. To the reaction solution, iced-water and ethyl acetate were added. The organic layer was separated, washed with water, 1 N hydrochloric acid, water, a saturated sodium hydrogencarbonate aqueous solution, and saturated saline in this order. Then, the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluting solvent; heptane:ethyl acetate=9:1 to 3:1) to give 96 mg of the title compound. The physical property values of this compound were as follows:

reactant | oxalyl chloride | 45 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
reactant | (S)-1-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]propan-2-ol | 171 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)NC[C@H](C)O)C | C28H34F3NO2Si
reactant | water | O | H2O
catalyst | 4-(N,N-dimethylamino)pyridine | 8 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propyl]-6-methylmorpholin-2,3-dione | 96 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)N1C(C(O[C@H](C1)C)=O)=O)C | C30H32F3NO4Si
